US06610711B2
N-Hexyl-4-n-propyl-4-(3-trifluoromethanesulfonyloxyphenyl)piperidine
To N-hexyl-4-(3-hydroxyphenyl)-4-n-propylpiperidine (Preparation 68, 1.0 g, 3.3 mmol) in dichloromethane (20 ml) under nitrogen at room temperature was added triethylamine (5 ml) and then N-phenylbis(trifluoromethanesulfonimide) (1.53 g, 4.29 mmol). The mixture was stirred for 16 h at room temperature and then 1N aqueous sodium hydroxide solution (5 ml) was added. After 1 h, water (5 ml) was added, the two layers were separated and the aqueous layer was extracted with dichloromethane (2×10 ml). The combined extracts were washed with water (10 ml), dried (Na2SO4), filtered and concentrated in vacuo to give the title compound as a yellow oil which was used without further purification (1.34 g, 94% crude yield).

reactant | N-hexyl-4-(3-hydroxyphenyl)-4-n-propylpiperidine | 3.3 mmol, 1.0 g | C(CCCCC)N1CCC(CC1)(CCC)C1=CC(=CC=C1)O | C20H33NO
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenylbis(trifluoromethanesulfonimide) | 4.29 mmol, 1.53 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 5 ml | O | H2O
product | N-Hexyl-4-n-propyl-4-(3-trifluoromethanesulfonyloxyphenyl)piperidine | C(CCCCC)N1CCC(CC1)(C1=CC(=CC=C1)OS(=O)(=O)C(F)(F)F)CCC | C21H32F3NO3S
